US07105544B2
1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 134 was prepared from 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.55 (dd, 1H, J=8.9, 6.3 Hz), 7.32 (s, 1H), 7.23–7.18 (m, 2H), 7.06 (dd, 1H, J=8.5, 3.0 Hz), 7.01–6.92 (m, 2H), 5.99–5.93 (m, 1H), 3.24 (q, 2H, J=5.9 Hz), 2.85–2.79 (m, 3H), 2.59–2.50 (m, 1H), 2.44 (septet, 1H, J=7.0 Hz), 2.41–2.37 (br, 1H), 2.26 (t, 2H, J=5.7 Hz), 2.19 (s, 3H), 2.07–2.01 (m, 2H), 1.81–1.69 (m, 4H), 1.61–1.37 (m, 10H), 1.17 (d, 6H, J=7.0 Hz); ESMS m/e: 556.1 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclohexanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)O | C13H14ClFO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | ClC1=C(C=CC(=C1)F)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C | C32H43ClFN3O2
